US04420477
A solution of 1-oxalomethyl-1H-tetrazole-5-thiol (1.09 g) and methoxyamine hydrochloride (0.47 g) in water (15 ml) was adjusted to pH 6.5 with sodium bicarbonate and stirred at room temperature for 2 hours. After washing with ethyl acetate, the aqueous solution was adjusted to pH 1.8 with 10% hydrochloric acid, extracted with ethyl acetate, dried over magnesium sulfate and evaporated to give 1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazole-5-thiol (1.05 g), mp 84° to 86° C.

reactant | 1-oxalomethyl-1H-tetrazole-5-thiol | 1.09 g | C(=O)(C(=O)O)CN1N=NN=C1S | C4H4N4O3S
reactant | methoxyamine hydrochloride | 0.47 g | Cl.CON
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 15 ml | O | H2O
product | 1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazole-5-thiol | 1.05 g | C(=O)(O)C(CN1N=NN=C1S)=NOC | C5H7N5O3S
